US07901594B2
Dimethyl 1,4-dipropylnaphthalene-2,3-dicarboxylate
2,3-Dichloro-5,6-dicyanobenzoquinone (1.362 g, 6.0 mmols) was added to a solution of dimethyl 1,4-dipropyl-5,6,7,8-tetrahydronaphthalene-2,3-dicarboxylate (0.665 g, 2.0 mmols) in benzene (20 ml). The mixture was then refluxed for 24 hours. After filtration, the solvent in the mixture was removed in vacuum. By column chromatography (ethyl acetate/hexane, 1/20) using silica gel, 0.464 g of the title compound was obtained as colorless crystals. The GC yield was 87% and the isolation yield was 71%.

reactant | 2,3-Dichloro-5,6-dicyanobenzoquinone | 6.0 mmols, 1.362 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | dimethyl 1,4-dipropyl-5,6,7,8-tetrahydronaphthalene-2,3-dicarboxylate | 2.0 mmols, 0.665 g | C(CC)C1=C(C(=C(C=2CCCCC12)CCC)C(=O)OC)C(=O)OC | C20H28O4
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | Dimethyl 1,4-dipropylnaphthalene-2,3-dicarboxylate | 0.464 g, yield was 87% | C(CC)C1=C(C(=C(C2=CC=CC=C12)CCC)C(=O)OC)C(=O)OC | C20H24O4
